US04402727
A solution of 21.2 g (0.05 mol) of α-(5-(2-chloro-4-trifluoromethylphenoxy)-2-nitro-phenoxy)-propionic acid-chloride in 30 ml of toluene was added to a mixture, cooled to from 0° to 5° C., of 5.4 g (0.055 mol) of 1-hydroxymethylpyrazole, 6 g (0.06 mol) of triethylamine and 70 ml of toluene. The reaction mixture was stirred overnight (approx. 15 hours) at room temperature (approx. 20° C.). To work up the mixture, it was diluted with toluene and then washed with water, dilute sodium hydroxide solution and again with water, and the organic phase was dried, filtered and concentrated. 17.0 g (70% of theory) of pyrazol-1-yl-methyl α-(5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitrophenoxy)-propionate were obtained in the form of beige-colored crystals of melting point 75° C.

reactant | α-(5-(2-chloro-4-trifluoromethylphenoxy)-2-nitro-phenoxy)-propionic acid-chloride | 0.05 mol, 21.2 g | ClC1=C(OC=2C=CC(=C(OC(C(=O)Cl)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C16H10Cl2F3NO5
reactant | 1-hydroxymethylpyrazole | 0.055 mol, 5.4 g | OCN1N=CC=C1 | C4H6N2O
reactant | triethylamine | 0.06 mol, 6 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | pyrazol-1-yl-methyl α-(5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitrophenoxy)-propionate | 17.0 g, 70% | ClC1=C(OC=2C=CC(=C(OC(C(=O)OCN3N=CC=C3)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C20H15ClF3N3O6
